US06495576B2
Tert-butyl 3-(3-Pyridinyl)diazathiane-1-carboxylate 2,2-dioxide
tert-Butanol (2.0 mL, 21.1 mmol) was added to a solution of chlorosulfonyl- isocyanate (1.8 mL, 21.1 mmol) in CH2Cl2 (40 mL). The reaction mixture was stirred at ambient temperature for 0.5 hours and then treated with a solution of 3-aminopyridine (2.00 g, 21.1 mmol) and triethylamine (4.4 mL, 31.6 mmol) in CH2Cl2 (20 mL) via canula. The reaction mixture was stirred at ambient temperature for an additional 1.5 hours and then filtered through a 0.25 inch silica gel plug. The solvent was removed under reduced pressure and the residue was purified by flash chromatography on silica gel (elution with EtOAc) to provide 1.17 g of the title compound as a white solid.

reactant | tert-Butanol | 21.1 mmol, 2.0 mL | C(C)(C)(C)O | C4H10O
reactant | chlorosulfonyl- isocyanate | 21.1 mmol, 1.8 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-aminopyridine | 21.1 mmol, 2.00 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 31.6 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 3-(3-Pyridinyl)diazathiane-1-carboxylate 2,2-dioxide | 1.17 g | N1=CC(=CC=C1)NS(NC(=O)OC(C)(C)C)(=O)=O | C10H15N3O4S
